US07714126B2
With a procedure similar to example 1 above, 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid {2-[(2-methoxy-ethyl)-methyl-amino]-pyrimidin-5-yl}-amide was prepared from 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid and N-(2-methoxy-ethyl)-N-methyl-pyrimidine-2,5-diamine. LCMS calcd for C19H18F3N5O3 (m/e) 421, obsd 422 (M+H).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | N-(2-methoxy-ethyl)-N-methyl-pyrimidine-2,5-diamine | COCCN(C1=NC=C(C=N1)N)C | C8H14N4O
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid {2-[(2-methoxy-ethyl)-methyl-amino]-pyrimidin-5-yl}-amide | COCCN(C1=NC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1)C | C19H18F3N5O3
